US07723333B2
2-[4-(Trifluoromethoxy)phenyl]ethanamine
2-[4-(Trifluoromethoxy)phenyl]acetamide (1.13 g, 5.156 mmol) was dissolved in THF (20 ml) and the reaction mixture was cooled in an ice-bath. Borane dimethyl sulfide complex (6.4 ml, 2M in THF) was added dropwise. After the addition, the cooling-bath was removed and the mixture was heated to reflux for 5 h and cooled down to rt. HCl (10%, 4 ml) was added, the mixture was stirred at rt overnight and then evaporated to remove THF. Water (15 ml) and diethyl ether (15 ml) were added into the residue. The two phases were separated and NaHCO3 (sat.) was added into the water phase. It was then extracted with EtOAc (20 ml×3). The extracts were combined and washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatography (ISOLUTE SI, 20 g/70 ml), eluting with MeOH/DCM (1:99, 2:98, 5:95 then 10:90), to give 0.2 g desired product and 0.46 g mixture. The mixture was further purified by re-chromatography (ISOLUTE SI, 20 g/70 ml), eluting with MeOH/EtOAc (2:98, 5:95, 10:90), to give 0.107 g more of the desired product. In total (0.307 g, 29%) of the title compound was obtained. Mass Spectrum: M+H+ 206. 1H NMR (400 MHz, CD3OD): δ 2.95 (t, 2H), 3.12 (t, 2H), 7.23 (d, 2H), 7.38 (d, 2H). 13C NMR (100 MHz, CD3OD): 35.3, 42.5, 122.2 (q, J=250 Hz), 122.6, 131.7, 136.2, 149.7.

reactant | 2-[4-(Trifluoromethoxy)phenyl]acetamide | 5.156 mmol, 1.13 g | FC(OC1=CC=C(C=C1)CC(=O)N)(F)F | C9H8F3NO2
reactant | Borane dimethyl sulfide | 2M, 6.4 ml | CSC.B
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[4-(Trifluoromethoxy)phenyl]ethanamine | 0.2 g | FC(OC1=CC=C(C=C1)CCN)(F)F | C9H10F3NO
